US04812532
Ethylcyanoacetate (11.3 g, 100 mmol) is added to a solution of sodium nitrite (8.3 g, 120 mmol) in distilled water (50 ml) and acetic acid (8.0 ml=8.4 g, 140 mmol) is added to the stirred mixture. The ester disappears and soon yellow crystals of the sodium derivative start to separate. Next day the crystals are collected and then dissolved in 2N HCl (50 ml). The product is extracted with ether (four times, 50 ml each time) and the extracts dried over anhydrous Na2SO4. Removal of the solvent by evaporation in vacuo leaves a crystalline residue, ethyl 2-hydroxyimino-2-cyanoacetate, melting at 133° C. (12.4 g, 87%).

reactant | Ethylcyanoacetate | 100 mmol, 11.3 g | C(C)OC(CC#N)=O | C5H7NO2
reactant | sodium nitrite | 120 mmol, 8.3 g | N(=O)[O-].[Na+]
reactant | acetic acid | 140 mmol, 8.0 ml, 8.4 g | C(C)(=O)O | C2H4O2
solvent | water | 50 ml | O | H2O
product | ethyl 2-hydroxyimino-2-cyanoacetate | ON=C(C(=O)OCC)C#N | C5H6N2O3
